US04069319
Using the procedure of Example 6, diethyl chlorothiophosphate and 3 -hydroxy-5-dimethylamino-1,2,4-thiadiazole were reacted and after chromatography and elution with an 8-2benzene-ethylacetate mixture, there was obtained 3-(diethoxythiophosphoryloxy)-5-dimethylamino-1,2,4-thiadiazole with a melting point of 48° C and Rf=0.55.

reactant | diethyl chlorothiophosphate | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | 3 -hydroxy-5-dimethylamino-1,2,4-thiadiazole | OC1=NSC(=N1)N(C)C | C4H7N3OS
product | 3-(diethoxythiophosphoryloxy)-5-dimethylamino-1,2,4-thiadiazole | C(C)OP(=S)(OCC)OC1=NSC(=N1)N(C)C | C8H16N3O3PS2
